US04001447
Using the procedure of Example 3, methyl 2-hydroxymethyl-thiazole-5-carboxylate and p-chlorophenoxy-isobutyric acid chloride were reacted in toluene and triethylamine to obtain methyl 2-[α-(p-chlorophenoxy)-α,α-dimethylacetoxymethyl]-thiazole-5-carboxylate melting at 80° C.

reactant | methyl 2-hydroxymethyl-thiazole-5-carboxylate | OCC=1SC(=CN1)C(=O)OC | C6H7NO3S
reactant | p-chlorophenoxy-isobutyric acid chloride | ClC1=CC=C(OC(C(=O)Cl)(C)C)C=C1 | C10H10Cl2O2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | methyl 2-[α-(p-chlorophenoxy)-α,α-dimethylacetoxymethyl]-thiazole-5-carboxylate | ClC1=CC=C(OC(C(=O)OCC=2SC(=CN2)C(=O)OC)(C)C)C=C1 | C16H16ClNO5S
